*model by Alexander Bordodynov
.subckt DB3 C E Vk=32 Delta_V=19V Ibo=10uA Rs=10 
.param  bVce={Vk-Delta_V}  bVcb={Vk} Re={Rs/2}
D1 bv P001 De0
D2 bv ev De
D3 bv ev Der
Vae P001 ev 0
D4 bv N001 Dc0
Vac N001 cv 0
D5 bv cv Dc
D6 bv cv Dcr
B2 ev bv I=(uramp(i(vac)*2)*af+ise)/MM(v(ev,bv),bVcb,nMc)-ise 
B3 cv bv I=(uramp(i(vae)*2)*af+ise)/MM(v(cv,bv),bVcb,nMc)-ise 
C2 ev bv 2p 
C3 cv bv 2p 
R1 C cv {re}
R2 ev E {re}
R3 C E {bVcb/Ibo}
.model De0 d is={is/2/af}
.model De d is={is/2/af} tt={2*tf}
.model Der d is={ise}  n={ne} 
.model Dc0 d is={is/2/af}
.model Dc d is={is/2/af} tt={2*tf}
.model Dcr d is={ise}  n={ne} 
.param af=bf/(bf+1)
.param nMc={log(1+Bf)/log(bVcb/(bVce-0.6))}
.func MM(x,y,z)  {1+1f-(limit(x,0,y)/y)**z}
.param   BF=5  
.param is=10f ise=100p ne=2
.param tf=28.0n  
.ends DB3



